US04414226
In methanol (15 ml) was dissolved 2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoic acid (100 mg) as obtained in Example 15, followed by addition of sodium hydrogen carbonate (80 mg). The mixture was stirred under ice-cooling. Then, 30% hydrogen peroxide (1.5 ml) was added dropwise and the reaction mixture was allowed to return gradually to room temperature, at which temperature it was further stirred for 5 hours. The solvent was then distilled off under reduced pressure, dilute HCl was added to the residue and the mixture was extracted with ethyl acetate. The extract was dried by addition of magnesium sulfate and the solvent was distilled off to give 2-(5-hydroxy-2,3-epoxy-1,4-dihydronaphthalene-1,4-dion-2-yl)-3-methoxy-5-methylbenzoic acid (100 mg). m.p. 267°-268° C.

reactant | 2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzoic acid | 100 mg | OC1=C2C(C=C(C(C2=CC=C1)=O)C1=C(C(=O)O)C=C(C=C1OC)C)=O | C19H14O6
reactant | sodium hydrogen carbonate | 80 mg | C(O)([O-])=O.[Na+]
reactant | hydrogen peroxide | 1.5 ml | OO | H2O2
solvent | methanol | 15 ml | CO | CH4O
product | 2-(5-hydroxy-2,3-epoxy-1,4-dihydronaphthalene-1,4-dion-2-yl)-3-methoxy-5-methylbenzoic acid | 100 mg | OC1=C2C(C3C(C(C2=CC=C1)=O)(O3)C3=C(C(=O)O)C=C(C=C3OC)C)=O | C19H14O7
